* HEF4000.lib
* Transistor output in the model.
*
* Developer Bordodynov Alexander
*
* M - number of parallel gates

* HEF4000B
* HEF4000B_INV
* HEF4069UB
* HEF4001B
* HEF4071B
* HEF4011B
* HEF4081B
* HEF4030B
* HEF4070B 
* HEF4049B
* HEF4050B
* HEF40106B
* HEF4093B
* HEF4013B

.subckt currcross Vdd Vss in m1=1
R1 in vss 1T
B1 Vdd Vss i=a*(V(in,vss)>vt)*(V(in,vss)<(V(vdd,vss)-vt))*(-abs(v(in,vss)-V(vdd,vss)/2)+V(vdd,vss)/2-vt)**2
.param Vt=1.5 a=0.11m*m1
.ends

.subckt hef4007n d g s p
M d g s p hef4007_n w=50u l=6u ad=450p as=500p
.ends 
.subckt hef4007p d g s p
M d g s p hef4007_p w=110u l=6u ad=1.2n as=1.5n

.ends 


.model hef4007_n NMOS
+LEVEL = 3
+KP    = 42u
+VTO   = 1.5
+TOX   = 55n
+NSUB  = 3.3E16
+GAMMA = 2
+PHI   = 0.65
+VMAX  = 150E3
+RS    = 40
+RD    = 40
+XJ    = 1.5u
+LD    = 1.2u
+Theta=0.1
+ETA   = 4

.model hef4007_p PMOS
+LEVEL = 3
+KP    = 25u
+VTO   = -1.6
+TOX   = 55n
+NSUB  = 2.8E15
+GAMMA = 1.
+PHI   = 0.65
+VMAX  = 970E3
+RS    = 80
+RD    = 80
+XJ    = 1.25u
+LD    = 1u
+Theta=0.15
+ETA   =7

.subckt HEF4000B a b c out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
D5 C VDD di
D6 VSS C di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
x3 vdd vss c currcross m1={m}
B1 VSS  y i=if( (v(a,vss)>0.5*v(vdd,vss))|(v(b,vss)>0.5*v(vdd,vss)|(v(c,vss)>0.5*v(vdd,vss))),0,v(vdd,vss)) Rpar=1
cb1 vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.25m, 5,0.7m, 10,1.4m, 15,2.1m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
Cc C VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron={100/M}
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt  HEF4000B_INV a out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
R a o 700
Ca o VSS 10p Rpar=1G
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS 10p Rpar=1G
.model di d vfwd=0.5 ron=100
.model Hefn vdmos vto=1.7  kp={speed*0.9m} lambda=15m  rs={60/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={speed*0.9m} lambda=45m  rs={80/speed} mtriode=1
.ENDS

.subckt HEF4069UB a out VDD VSS params:  speed=1
D1 A VDD di
D2 VSS A di
R a o {700/M}
Ca o VSS {10p*M} Rpar=1G
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {10p*M} Rpar=1G
.model di d vfwd=0.5 ron={100/M}
.model Hefn vdmos vto=1.3  kp={speed*1.1m*M} lambda=15m  rs={50/speed/m} mtriode=2.5
.model Hefp vdmos pchan vto=-1.5  kp={speed*1.1m*M} lambda=45m  rs={70/speed/m} mtriode=1
.ENDS

.subckt HEF4001B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS  y i=if( (v(a,vss)>0.5*v(vdd,vss))|(v(b,vss)>0.5*v(vdd,vss)),0,v(vdd,vss)) Rpar=1
cb1 vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,0.9m, 10,3m, 15,4m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS



.subckt HEF4071B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS y i=if( (v(a,vss)>0.5*v(vdd,vss))|(v(b,vss)>0.5*v(vdd,vss)),v(vdd,vss),0) Rpar=1
cb1 vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,1m, 10,4m, 15,6m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt HEF4011B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS y i=if( (v(a,vss)>0.5*v(vdd,vss))&(v(b,vss)>0.5*v(vdd,vss)),0,v(vdd,vss)) Rpar=1
cb1 Vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,0.9m, 10,3m, 15,4m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100 Roff=1G
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt HEF4081B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS y V=if( (v(a,vss)>0.5*v(vdd,vss))&(v(b,vss)>0.5*v(vdd,vss)),v(vdd,vss),0) Rpar=1
cb1 Vss y 1n 
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,0.9m, 10,4.6m, 15,6.5m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt HEF4030B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS y i=if( (v(a,vss)>0.5*v(vdd,vss))^(v(b,vss)>0.5*v(vdd,vss)),v(vdd,vss),0) Rpar=1
cb1 Vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.15m, 5,0.44m, 10,1.7m, 15,2.4m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt HEF4070B a b out VDD VSS params: M=1 speed=1
D1 A VDD di
D2 VSS A di
D3 B VDD di
D4 VSS B di
x1 vdd vss a currcross m1={m}
x2 vdd vss b currcross m1={m}
B1 VSS y i=if( (v(a,vss)>0.5*v(vdd,vss))^(v(b,vss)>0.5*v(vdd,vss)),v(vdd,vss),0) Rpar=1
cb1 Vss y 1n
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.15m, 5,0.44m, 10,1.7m, 15,2.4m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
Cb B VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*10p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS

.subckt HEF4049B a out VDD VSS params: M=1 speed=1
D2 VSS A di
x1 vdd vss a currcross m1={m}
B1 VSS y i=if( (v(a,vss)>0.5*v(vdd,vss)), 0,v(vdd,vss)) Rpar=1
cb1 Vss y 1n 
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.5m, 5,1.4m, 10,4m, 15,8m) Rpar=100K
Ct z VSS {5p/speed}
Ca A VSS {M*5p} Rpar=1G
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*9p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*20p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.1  kp={M*speed*0.3m} lambda=15m  mtriode=2.5  rs={180/M/speed} 
.model p vdmos pchan vto=-1.  kp={M*speed*1.5m} lambda=45m  mtriode=1 rs={80/M/speed} 
.model Hefn vdmos vto=1.1  kp={M*speed*7.2m} lambda=15m  rs={5/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1 
.ENDS




.subckt HEF4050B a  out VDD VSS params: M=1 speed=1
D2 VSS A di
Ca A VSS {M*5p} Rpar=1G
M1 O a VSS VSS n
M2 O a VDD VDD p
Co o vss {M*12p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*20p} Rpar=1G
.model di d vfwd=0.5 ron=100
.model n vdmos vto=1.1  kp={M*speed*0.3m} lambda=15m  mtriode=2.5  rs={180/M/speed} 
.model p vdmos pchan vto=-1.  kp={M*speed*0.3m} lambda=45m  mtriode=1 rs={240/M/speed} 
.model Hefn vdmos vto=1.1  kp={M*speed*5.4m} lambda=15m  rs={80/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1 
.ENDS

.subckt HEF40106B a out VDD VSS  M=1 speed=1
D1 A VDD di
D2 VSS A di
Ca A VSS {M*5p} Rpar=1G
bh vss h i=if((v(a,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,3,10,5.8,15,8.3) ),0,v(vdd,vss)) Rpar=1
cbh vss h 1n
bl vss l i=if((v(a,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,2.2,10,4.5,15,6.5) ),0,v(vdd,vss)) Rpar=1
cbl vss h 1n
sh h y0 y vss swh
sl l y0 y vss swl
.model swh sw vt=1.5 ron=1k roff=1G
.model swl sw vt=1.5 ron=1G roff=1k
Cg y0 vss {5p/speed}
B1 y VSS v=if((v(y0,vss)>0.5*v(vdd,vss)),v(vdd,vss),0)
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.18m, 5,0.7m, 10,2.9m, 15,4.5m) Rpar=100K
Ct z VSS {5p/speed}
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*20p} Rpar=1G
.model di d vfwd=0.5 ron={100/M}
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.ENDS HEF40106B

.subckt HEF4093B a b out VDD VSS  M=1 speed=1
*a
D1a A VDD di
D2a VSS A di
Ca A VSS {M*5p} Rpar=1G
bha ha vss v=if((v(a,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,3,10,5.8,15,8.3) ),0,v(vdd,vss))
bla la vss v=if((v(a,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,2.2,10,4.5,15,6.5) ),0,v(vdd,vss))
sha ha y0a ya vss swh
sla la y0a ya vss swl
Cga y0a vss {5p/speed}
B1a ya VSS v=if((v(y0a,vss)>0.5*v(vdd,vss)),v(vdd,vss),0)
*b
D1b b VDD di
D2b VSS b di
Cb b VSS {M*5p} Rpar=1G
bhb hb vss v=if((v(b,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,3,10,5.8,15,8.3) ),0,v(vdd,vss))
blb lb vss v=if((v(b,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,2.2,10,4.5,15,6.5) ),0,v(vdd,vss))
shb hb y0b yb vss swh
slb lb y0b yb vss swl
Cgb y0b vss {5p/speed}
B1b yb VSS v=if((v(y0b,vss)>0.5*v(vdd,vss)),v(vdd,vss),0)
*
B1 y VSS V=if( (v(ya,vss)>0.5*v(vdd,vss))|(v(yb,vss)>0.5*v(vdd,vss)),v(vdd,vss),0) 
B2 y z I=tanh(v(y,z))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,0.9m, 10,3m, 15,4m) Rpar=100K
Ct z VSS {5p/speed}
M1 O z VSS VSS n
M2 O z VDD VDD p
Co o vss {M*3p}
M3 OUT o VSS VSS HEFn
M4 OUT o VDD VDD HEFp
C4 OUT VSS {M*20p} Rpar=1G
.model di d vfwd=0.5 ron={100/M}
.model n vdmos vto=1.7  kp={M*speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={M*speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={M*speed*0.9m} lambda=15m  rs={60/M/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={M*speed*0.9m} lambda=45m  rs={80/M/speed} mtriode=1
.model swh sw vt=1.5 ron=1k roff=1G
.model swl sw vt=1.5 ron=1G roff=1k
.ENDS HEF4093B


.SUBCKT HEF4013B  S C D R Q QN  VDD Vss  speed=1
*
D1 C VDD di
D2 VSS C di
D3 s VDD di
D4 VSS s di
D5 d VDD di
D6 VSS d di
D7 r VDD di
D8 VSS r di
C1 s vss 5p
C2 c vss 5p
C3 d vss 5p
C4 r vss 5p
* S
Bs Si 0 V=if( (v(s,vss)>0.5*v(vdd,vss)),5,0) 
Bsp  si sp I=tanh(v(si,sp))*tbl(V(vdd,vss), 1.7,0, 3,0.2m, 5,0.8m, 10,1.9m, 15,4.8m) Rpar=100K
Cst Sp 0 {5p/speed}
* R
BR1 Ri 0 V=if( (v(r,vss)>0.5*v(vdd,vss)), 5,0)
Brp  ri rp I=tanh(v(ri,rp))*tbl(V(vdd,vss), 1.7,0, 3,0.2m, 5,0.8m, 10,1.9m, 15,4.8m) Rpar=100K
Crt rp 0 {5p/speed} 
* C
bh h 0 v=if((v(c,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,3,10,5.8,15,8.3) ),0,5)
bl l 0 v=if((v(c,vss)> tbl(v(vdd,vss),0,0,3.3,1.7,5,2.2,10,4.5,15,6.5) ),0,5) 
sh h y0 y 0 swl
sl l y0 y 0 swh 
Cg y0 0 {2p/speed}
B1 y 0 v=if((v(y0)>0.5),0,5)
B2 y cp I=tanh(v(y,cp))*tbl(V(vdd,vss), 1.7,0, 3,0.09m, 5,0.37m, 10,1.2m, 15,4.8m) Rpar=100K
Ct Cp 0 {5p/speed}
* D
BD Di 0 V=if( (v(d,vss)>0.5*v(vdd,vss)), 5,0)
Bdp  Di Dp I=tanh(v(di,dp))*tbl(V(vdd,vss), 1.7,0, 3,0.3m, 5,0.9m, 10,2m, 15,3m) Rpar=100K
Cdt Dp 0 {5p/speed}
*
A1     Dp 0 Cp  Sp Rp  QNi Qi 0  DFLOP  tripdt=5n td=5n Vhigh=5
*
* Q
Bq Qi1 vss V=if( (v(qi)>2.5),V(vdd,vss),0)
Bqp  Qi1 Qii I=tanh(v(Qi1,qii))*tbl(V(vdd,vss), 1.7,0, 3,0.5m, 5,1.6m, 10,3.2m, 15,4.8m) Rpar=100K
Cqt Qii vss {5p/speed}
M1 O Qii VSS VSS n
M2 O Qii VDD VDD p
Co o vss 3p
M3 Q o VSS VSS HEFn
M4 Q o VDD VDD HEFp
C42 Q VSS 10p Rpar=1G
* QN
Bq1 QNi1 vss V=if( (v(qni)>2.5),V(vdd,vss),0)
Bqp1  QNi1 QNii I=tanh(v(qni1,qnii))*tbl(V(vdd,vss), 1.7,0, 3,0.5m, 5,1.6m, 10,3.2m, 15,4.8m) Rpar=100K
Cqt1 QNii vss {5p/speed} 
M5 O1 QNii VSS VSS n
M6 O1 QNii VDD VDD p
Co1 o1 vss 3p
M7 QN o1 VSS VSS HEFn
M8 QN o1 VDD VDD HEFp
C41 QN VSS 10p Rpar=1G
.model di d vfwd=0.5 ron=100
.model swh sw vt=2 ron=1k roff=1G
.model swl sw vt=2 ron=1G roff=1k
.model n vdmos vto=1.7  kp={speed*0.3m} lambda=15m  mtriode=2.5
.model p vdmos pchan vto=-1.6  kp={speed*0.3m} lambda=45m  mtriode=1
.model Hefn vdmos vto=1.7  kp={speed*0.9m} lambda=15m  rs={60/speed} mtriode=2.5
.model Hefp vdmos pchan vto=-1.6  kp={speed*0.9m} lambda=45m  rs={80/speed} mtriode=1
.ends

