.SUBCKT K561LN2 1  2   VCC   Vss
*Hex invert    In Out Vcc Vss
R 1 g 300 
D1 Vss 1 din
D2 Vss g din
.model din d  Rs=100
M1 2 g Vcc Vcc CD4049P
M2 2 g Vss Vss CD4049N
.MODEL CD4049P PMOS (LEVEL=3 VTO=-2.9 KP=2M 
+ PHI=.75 RD=28.2 RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=148P CBS=177P CGSO=218N CGDO=182N CGBO=299N W=80U L=10U)
.MODEL CD4049N NMOS (LEVEL=3 VTO=2.1 KP=5M 
+ PHI=.75 RD=4.2 RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=105P CBS=127P CGSO=156N CGDO=130N CGBO=214N W=40U L=10U)
.ENDS
