* LM3914 Bar/dot display driver
* Model by Geoff Western (aka Alec_t).
* V2.0

* Pin 9 (Mode) bias arrangement, Ref source resistance Rs, and Ref plateau are speculative.
* Clamp diodes D1-D10 are a kludge to prevent B1-B10 producing fatal run-time errors in the sim
* for unconnected output pins, so introduce a spurious -0.6V at unconnected pins.
* Temperature effects, operating limits and comparator offsets are not modelled.

.subckt lm3914 Bar/_dot Rhi Sig V+ V- Adj L1 L10 L2 L3 L4 L5 L6 L7 L8 L9 Ref Rlo
B1 L1 V- I=1u-10*i(rs)*(V(sig)>V(d1))*((V(sig)<V(d2)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B2 L2 V- I=1u-10*i(rs)*(V(sig)>V(d2))*((V(sig)<V(d3)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B3 L3 V- I=1u-10*i(rs)*(V(sig)>V(d3))*((V(sig)<V(d4)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B4 L4 V- I=1u-10*i(rs)*(V(sig)>V(d4))*((V(sig)<V(d5)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B5 L5 V- I=1u-10*i(rs)*(V(sig)>V(d5))*((V(sig)<V(d6)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B6 L6 V- I=1u-10*i(rs)*(V(sig)>V(d6))*((V(sig)<V(d7)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B7 L7 V- I=1u-10*i(rs)*(V(sig)>V(d7))*((V(sig)<V(d8)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B8 L8 V- I=1u-10*i(rs)*(V(sig)>V(d8))*((V(sig)<V(d9)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B9 L9 V- I=1u-10*i(rs)*(V(sig)>V(d9))*((V(sig)<V(rhi)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B10 L10 V- I=1u-10*i(rs)*(V(sig)>V(rhi))*((V(Bar/_dot)+0.1>=V(v+))|(V(Bar/_dot)>=V(L9)-0.9))
Ric V+ V- 4k
D1 V- L1 D
D2 V- L2 D
D3 V- L3 D
D4 V- L4 D
D5 V- L5 D
D6 V- L6 D
D7 V- L7 D
D8 V- L8 D
D9 V- L9 D
D10 V- L10 D
Rm2 Bar/_dot V- 10meg
I1 V+ Adj 75µ
Rs N001 V- 50
B11 Ref N001 V=min(v(v+)-v(v-)-.3,1.28+v(adj)-v(v-))
B1a L1 V- I=150u*(V(Bar/_dot)<(V(v+)-0.1))*(V(sig)>V(d1))
B15 V+ V- I=1m1-4*i(B11)
Rm1 V+ Bar/_dot 350k
R1 Rlo d1 1k2
R2 d1 d2 1k2
R3 d2 d3 1k2
R4 d3 d4 1k2
R5 d4 d5 1k2
R6 d5 d6 1k2
R7 d6 d7 1k2
R8 d7 d8 1k2
R9 d8 d9 1k2
R10 d9 Rhi 1k2
R11 Sig N002 20k
I2 N002 V- 25n
D11 V- N002 D
.ends lm3914







